Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with history of Turner's syndrome, atrial septal defect s/p 
repair in ___, hypothyroidism, depression, and tension 
headaches now presenting with one week h/o fevers, cough and 
headache.  
 She had onset of fever on ___, with reported temperature up to 
___. Symptoms were accompanied by photophobia, chills, malaise, 
and non-productive cough. Also has had myalgias. She had 
headaches most prominent at the posterior head and neck. She has 
been taking Advil and Tylenol with improvement in fevers, though 
not complete resolution.  
 She presented to her PCP office on ___ and was referred to the 
ED. At that time LP was non-suggestive of infection. CXR from 
___ showed no acute cardiopulmonary process.  
 CT head showed no acute intracranial abnormalities, but did 
show lucent lesion at the anterior aspect of the right sphenoid 
sinus, incompletely characterized, potentially fibrous dysplasia 
although not classic, or other fibro-osseous lesion.  
 Since d/c form ED 2 days ago, she continues to have a cough, 
headache treated with fiourcet. Continued fevers with txmax 
yesterday 101. Had an appointment with PCP today but was told to 
go the ED as PCP was concerned for endocarditis in the setting 
of intracardiac device.  
 In the ED, initial vitals: 98.2 92 ___ 100% RA  
 Labs were significant for: Unremarkable CBC and Chem7  
 She received  
 ___ 18:24 PO Acetaminophen-Caff-Butalbital 1 TAB  
 Vitals prior to transfer: 98.4 99 123/83 18 96% RA  
 
On arrival to the floor the patient is well appearing and 
pleasant. She states that today is the first day she feels 
better and has not had a fever, but before she felt like she was 
"going to die". She states that there have been sick contacts at 
home and work within the last month. Her illness started about 
one week ago with fever/chills, fatigue, headache, nausea, 
decreased apatite and myalgias as above. The cough came a couple 
days after the initial symptoms. She is worried because she 
feels that for the last few years she has been getting sick >3x 
each year. She otherwise denies chest pain/pressure, SOB, weight 
loss, sore throat, c/d, is not sexually active and has no change 
in vaginal discharge. She has not had a flu shot for many years. 
 
 ROS:  
 as per HPI  
 
Past Medical History:
 ATRIAL SEPTAL DEFECT  
 Secundum type ASD s/p percutaneous 28mm STARFlex device closure 
at ___ in ___.  
 HYPERTENSION  
 HYPOTHYROIDISM  
 INSOMNIA  
 NEPHROLITHIASIS ___  
 TENSION HEADACHES  
 TURNER'S SYNDROME  
 HYPOTHYROIDISM  
 OSTEOPOROSIS  
 DEPRESSION  
 IRON DEFICIENCY ANEMIA  
 
Social History:
___
Family History:
Mother Living ___ ANXIETY  
DEPRESSION  
Father Living ___ HYPERTENSION  
 
 
Physical Exam:
ADMISSION: 
 VS: 97.4 PO, 120/87, 79, 18, 100% RA  
 GEN: Alert, lying in bed, no acute distress  
 HEENT: EOMI, PERRL, Moist MM, clear posterior oropharynx 
without exudate, lesion or erythema, no LAD, anicteric sclerae, 
no conjunctival pallor  
 PULM: CTA b/l without wheeze or rhonchi  
 COR: irregular rhythm, normal rate, normal S1/S2 no m/r/g  
 ABD: Soft, non-tender, non-distended, no HSM, normal BS  
 EXTREM: Warm, well-perfused, no edema no rash or stigmata of 
endocarditis.  
 NEURO: CN II-XII grossly intact, motor function grossly normal  


DISCHARGE:
Vital Signs: 97.6 104 / 65  72 16 100 ra  
GEN: Alert, lying in bed, no acute distress  
HEENT: EOMI, PERRL, Moist MM, clear posterior oropharynx without 
exudate, lesion or erythema, no LAD, anicteric sclerae, no 
conjunctival pallor  
PULM: CTA b/l without wheeze, crackles or rhonchi  
COR: RRR, normal S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended, no HSM, normal BS  
EXTREM: Warm, well-perfused, no edema no rash or stigmata of 
endocarditis.  
NEURO: CN II-XII grossly intact, motor function grossly normal  
 
Pertinent Results:
___ 05:50PM   GLUCOSE-92 UREA N-9 CREAT-0.7 SODIUM-137 
POTASSIUM-3.7 CHLORIDE-102 TOTAL CO2-21* ANION GAP-18
___ 05:50PM   IgG-544* IgA-184 IgM-113
___ 05:50PM   WBC-9.9 RBC-4.00 HGB-11.2 HCT-34.3 MCV-86 
MCH-28.0 MCHC-32.7 RDW-16.9* RDWSD-52.5*
___ 05:50PM   NEUTS-75.1* LYMPHS-14.0* MONOS-9.3 EOS-0.9* 
BASOS-0.2 IM ___ AbsNeut-7.39* AbsLymp-1.38 AbsMono-0.92* 
AbsEos-0.09 AbsBaso-0.02
___ 05:50PM   PLT COUNT-255
___ 05:50PM   ___ PTT-27.7 ___

Non-con head CT ___:
IMPRESSION:
1. No acute intracranial abnormalities.
2. Lucent lesion at the anterior aspect of the right sphenoid 
sinus,
incompletely characterized, potentially fibrous dysplasia 
although not
classic, or other fibro-osseous lesion.  If desired, further 
characterization
can be performed by MRI.
RECOMMENDATION(S):  Nonemergent head MR for further evaluation 
of lucent
lesion within the right sphenoid sinus, if desired.

CXR ___: 
In comparison with the study of ___, there is little 
change and no
evidence of acute cardiopulmonary disease.  No pneumonia, 
vascular congestion,
or pleural effusion.
ASD closure device is again seen.

___ 4:22 pm CSF;SPINAL FLUID      Source: LP
GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

FLUID CULTURE (Final ___: 
      Reported to and read back by ___ (EW) ___ AT 
1525. 
      GRAM POSITIVE RODS.    1 COLONY ON 1 PLATE. 
         SUGGESTIVE OF CONTAMINATION.  CLINICAL CORRELATION 
RECOMMENDED. 
         UNABLE TO IDENTIFY FURTHER. 

___ 05:40AM BLOOD WBC-7.7 RBC-3.76* Hgb-10.6* Hct-31.7* 
MCV-84 MCH-28.2 MCHC-33.4 RDW-16.9* RDWSD-52.2* Plt ___
___ 05:40AM BLOOD Plt ___
___ 05:40AM BLOOD Glucose-82 UreaN-8 Creat-0.5 Na-139 K-3.8 
Cl-103 HCO3-22 AnGap-18
___ 05:40AM BLOOD Calcium-8.8 Phos-4.0 Mg-2.1
___ 05:40AM BLOOD TSH-5.5*
___ 05:50PM BLOOD IgG-544* IgA-184 IgM-113
___ 01:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 01:00PM URINE Color-Straw Appear-Clear Sp ___
___ 12:03AM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
 
Brief Hospital Course:
___ with history of Turner's syndrome, atrial septal defect s/p 
repair in ___, hypothyroidism, depression, and tension 
headaches now presenting with one week h/o fevers, cough and 
headache and admitted for LP and r/o endocarditis with ECHO 
given history of ASD repair. 

During hospital stay patient was afebrile and started feeling 
better. She had unremarkable labs, and infectious workup, except 
for borderline low IgG (544) and TSH of 5.5. She was discharged 
late ___ as she had to leave to visit her father who was 
being admitted at an OSH prior to getting ECHO.  This likely 
represented a viral illness which the patient recovered from 
without intervention.  She was discharged on only her home 
medications. 

Patient was advised to call her PCP's office and come to the ED 
if her fevers returned, and patient will call her PCP office on 
___ to schedule a TTE. 

There was an incidental Head CT finding of an abnormality in 
sphenoid sinus of unclear significance to be better 
characterized by outpatient MRI. Likely not contributing to sx.  

 
Of note, after discharge her CSF culture grew one colony of gram 
pos rods on a single plate suggestive of infection. There is 
very low suspicion of bacterial meningitis given the time course 
and her lack of symptoms at discharge but the patient was 
contacted and provided with information on danger signs and when 
to return to the hospital. 

TRANSITIONAL ISSUES
================================
-recheck TSH and Ft4 in 6 weeks given TSH of 5.5
-Please schedule urgent echocardiogram to r/o endocarditis
-If patient continues to get persistent viral infections 
consider repeat immunogammaglobulin deficiency workup 
-urine and blood cx pending on discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. isometh-dichloral-acetaminophn 65-100-325 mg oral Q8H:PRN 
headache 
2. Clobetasol Propionate 0.05% Soln 1 Appl TP QHS to scalp 
3. Fluocinonide 0.05% Ointment 1 Appl TP BID:PRN rash 
4. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID:PRN rash 
5. Guaifenesin-CODEINE Phosphate ___ mL PO Q8H:PRN cough 
6. ClonazePAM 0.5 mg PO QHS:PRN anxiety/insomnia 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Estrogens Conjugated 0.625 mg PO DAILY 
9. Ferrous Sulfate 325 mg PO TID 
10. Multivitamins 1 TAB PO DAILY 
11. ubidecarenone-omega 3-vit E ___ mg-mg-unit oral DAILY 

12. Ca carb-Ca gluc-Mg ox-Mg gluco 500 mg calcium -250 mg oral 
DAILY 
13. Citalopram 20 mg PO DAILY 
14. Hydrochlorothiazide 25 mg PO DAILY 
15. Levothyroxine Sodium 88 mcg PO DAILY 
16. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Ca carb-Ca gluc-Mg ox-Mg gluco 500 mg calcium -250 mg oral 
DAILY  
2.  Citalopram 20 mg PO DAILY  
3.  Clobetasol Propionate 0.05% Soln 1 Appl TP QHS to scalp  
4.  ClonazePAM 0.5 mg PO QHS:PRN anxiety/insomnia  
5.  Estrogens Conjugated 0.625 mg PO DAILY  
6.  Ferrous Sulfate 325 mg PO TID  
7.  Fluocinonide 0.05% Ointment 1 Appl TP BID:PRN rash  
8.  Guaifenesin-CODEINE Phosphate ___ mL PO Q8H:PRN cough  
9.  Hydrochlorothiazide 25 mg PO DAILY  
10.  isometh-dichloral-acetaminophn 65-100-325 mg oral Q8H:PRN 
headache  
11.  Levothyroxine Sodium 88 mcg PO DAILY  
12.  Metoprolol Succinate XL 25 mg PO DAILY  
13.  Multivitamins 1 TAB PO DAILY  
14.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID:PRN rash  
15.  ubidecarenone-omega 3-vit E ___ mg-mg-unit oral 
DAILY  
16.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
viral illness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because you had fevers. Since you have 
a history of an atrial septal defect repair, you were admitted 
to the hospital for monitoring and ECHO.

While in the hospital your fevers stopped, however we were 
unable to get an ECHO over the weekend. As your fevers stopped 
and your labs were reassuring we are discharging you home. It is 
IMPERATIVE that you call Dr. ___ office at  ___  
on ___ morning have your primary care provider schedule an 
echocardiogram for you. It is VERY important you call your PCP 
and came back to the ED if your fevers return, as this may be a 
sign of a serious infection.

We wish you all the best!
-Your ___ Care Team  

 
Followup Instructions:
___